* D:\academic\AUC\Fall 2023\microelectronics\project\3InputOddParityChecker.asc
M1 N003 N002 0 0 NMOS0P18 W=0.9u L=0.18u
M2 N003 N002 N001 N001 PMOS0P18 W=0.9u L=0.18u
V1 N001 0 1.8
V2 N002 0 PULSE(0 1.8 0 0 0 50m 100m)
R1 N004 N003 1k
C1 0 N004 0.2p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ahmed\AppData\Local\LTspice\lib\cmp\standard.mos
.lib "MOSFET_models_0p5_0p18.inc"
.tran 1
;dc VSWEEP 0 1.8 0.01 VSWEEP 1.8 0 0.01 VSWEEP 0 1.8 0.01
* MATCHED MOSFETS
.backanno
.end
