* Z:\home\ziad\AUC\Microelectronics\Project\odd_parity_checker_spice\3_INPUT_ODD_PARITY.asc
M2 N012 N004 N008 N008 PMOS0P18 W=5.4u L=0.18u
M3 N012 N006 N009 N009 PMOS0P18 W=5.4u L=0.18u
M4 N013 N004 N010 N010 PMOS0P18 W=5.4u L=0.18u
M7 N008 N003 N001 N001 PMOS0P18 W=5.4u L=0.18u
M8 N009 N002 N001 N001 PMOS0P18 W=5.4u L=0.18u
M9 N010 N002 N001 N001 PMOS0P18 W=5.4u L=0.18u
M10 N013 N006 N011 N011 PMOS0P18 W=5.4u L=0.18u
M11 N011 N003 N001 N001 PMOS0P18 W=5.4u L=0.18u
M15 N014 N003 N015 N015 NMOS0P18 W=3.6u L=0.18u
M16 N014 N004 N015 N015 NMOS0P18 W=3.6u L=0.18u
V1 N001 0 1.8
M21 N003 N002 N001 N001 PMOS0P18 W=1.8u L=0.18u
M22 N003 N002 0 0 NMOS0P18 W=0.9u L=0.18u
M23 N006 N004 N001 N001 PMOS0P18 W=1.8u L=0.18u
M24 N006 N004 0 0 NMOS0P18 W=0.9u L=0.18u
M25 N007 N005 N001 N001 PMOS0P18 W=1.8u L=0.18u
M26 N007 N005 0 0 NMOS0P18 W=0.9u L=0.18u
M1 N015 N002 N016 N016 NMOS0P18 W=3.6u L=0.18u
M5 N015 N006 N016 N016 NMOS0P18 W=3.6u L=0.18u
M6 N014 N005 N016 N016 NMOS0P18 W=1.8u L=0.18u
M17 N016 N004 N017 N017 NMOS0P18 W=3.6u L=0.18u
M18 N017 N003 0 0 NMOS0P18 W=3.6u L=0.18u
M19 N017 N006 0 0 NMOS0P18 W=3.6u L=0.18u
M14 N016 N002 N017 N017 NMOS0P18 W=3.6u L=0.18u
M27 N016 N007 0 0 NMOS0P18 W=1.8u L=0.18u
V2 N002 0 1.8
V3 N005 0 0
V4 N004 0 1.8
M13 N014 N005 N012 N012 PMOS0P18 W=5.4u L=0.18u
M29 N014 N007 N013 N013 PMOS0P18 W=5.4u L=0.18u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\ziad\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5
.lib "MOSFET_models_0p5_0p18.inc"
.backanno
.end
