* D:\academic\AUC\Fall 2023\microelectronics\project\odd_parity_checker_spice\CMOS_0.5_INV_MinArea.asc
M1 N005 N003 0 0 NMOS0P5 W=1.25u L=0.5u
M2 N005 N003 N001 N001 PMOS0P5 W=1.25u L=0.5u
V1 N001 0 3.3
V2 N003 0 PULSE(0 3.3 0 0 0 50m 100m 1)
R1 N007 N005 1k
C1 0 N007 0.5p
M3 N006 N004 0 0 NMOS0P5 W=1.25u L=0.5u
M4 N006 N004 N002 N002 PMOS0P5 W=1.25u L=0.5u
V3 N002 0 3.3
VSWEEP N004 0 0
R2 N008 N006 1k
C2 0 N008 0.5p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ahmed\AppData\Local\LTspice\lib\cmp\standard.mos
.lib "MOSFET_models_0p5_0p18.inc"
;.tran 1
.dc VSWEEP 0 3.3 0.01
* MINIMUM AREA
* CMOS INVERTER
* MINIMUM AREA
.backanno
.end
