* D:\academic\AUC\Fall 2023\microelectronics\project\odd_parity_checker_spice\CMOS_INV_Matched_0_18u.asc
M1 N005 N003 0 0 NMOS0P18 W=0.9u L=0.18u
M2 N005 N003 N001 N001 PMOS0P18 W=4.05u L=0.18u
V1 N001 0 1.8
VSWEEP N003 0 0
R1 N007 N005 1k
C1 0 N007 0.2p
M3 N006 N004 0 0 NMOS0P18 W=0.9u L=0.18u
M4 N006 N004 N002 N002 PMOS0P18 W=4.05u L=0.18u
V2 N002 0 1.8
Vin N004 0 PULSE(0 1.8 0 0 50m 100m 1)
R2 N008 N006 1k
C2 0 N008 0.2p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ahmed\AppData\Local\LTspice\lib\cmp\standard.mos
.lib "MOSFET_models_0p5_0p18.inc"
;.tran 1
.dc VSWEEP 0 1.8 0.01
* MATCHED MOSFETS
* CMOS INVERTER
* Wp/Wn=Un/Up
* Wp/0.9u = 4.5
* Wp = 4.05um
* Wp/Wn=Un/Up
* Wp/0.9u = 4.5
* Wp = 4.05um
* MATCHED MOSFETS
.backanno
.end
